US05292901
Ethyl [{2-(1,3-benzodioxol-5-yl)ethyl}thio]acetate
3.24 g of ethyl thioglycolate was added to 6 g of 5-ethenyl-1,3-benzodioxole and the mixture was stirred at room temperature for 14 h. The reaction product was purified according to silica gel column chromatography (benzene:ethyl acetate=40:1) to obtain 5 g of the intended compound in the form of a colorless oil.

reactant | ethyl thioglycolate | 3.24 g | C(CS)(=O)OCC | C4H8O2S
reactant | 5-ethenyl-1,3-benzodioxole | 6 g | C(=C)C1=CC2=C(OCO2)C=C1 | C9H8O2
product | Ethyl [{2-(1,3-benzodioxol-5-yl)ethyl}thio]acetate | 5 g | O1COC2=C1C=CC(=C2)CCSCC(=O)OCC | C13H16O4S
